US07160887B1
A mixture of 4-benzyloxy-2-fluoronitrobenzene (6.43 g, 26 mmols), N-tert-butoxycarbonyl-3-hydroxybenzylamine (5.78 g, 26 mmols), potassium carbonate (3.59 g, 26 mmols) and N,N-dimethylformamide (70 ml) was stirred at 100° C. for 12 hours. The reaction mixture was cooled, then poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate, and the solvent was evaporated away to give an yellow oil of tert-butyl[3-(5-benzyloxy-2-nitrophenoxy)benzyl]carbamate (11.2 g, 95.0%).

reactant | 4-benzyloxy-2-fluoronitrobenzene | 26 mmols, 6.43 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C13H10FNO3
reactant | N-tert-butoxycarbonyl-3-hydroxybenzylamine | 26 mmols, 5.78 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)O | C12H17NO3
reactant | potassium carbonate | 26 mmols, 3.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl[3-(5-benzyloxy-2-nitrophenoxy)benzyl]carbamate | 11.2 g, 95.0% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C25H26N2O6
